US07572820B2
1-({5-[2-(Methyloxy)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 23 using 4-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-(chloromethyl)-5-[2-(methyloxy)phenyl]-1,2,4-oxadiazole: MS (ES) m/z 399 (M+1).

reactant | 4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC(C1=C2C=CNC2=CC=C1C#N)(F)F | C10H5F3N2
reactant | 3-(chloromethyl)-5-[2-(methyloxy)phenyl]-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=C(C=CC=C1)OC | C10H9ClN2O2
product | 1-({5-[2-(Methyloxy)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | COC1=C(C=CC=C1)C1=NC(=NO1)CN1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C20H13F3N4O2
